US03932499
Ethyl 2-(2', 4'-difluoro-4-biphenylyl)-2-methylmalonate (5.42 g.) was refluxed for 2 hours with a mixture of 2.5N aqueous sodium hydroxide (27 ml.) and ethanol (13.5 ml.). The solution was then evaporated to a small bulk; the solid sodium salt was dissolved in water and the solution acidified with dilute hydrochloric acid. The resulting precipitate of crude 2-(2',4'-difluoro-4-biphenylyl)-2-methylmalonic acid was decarboxylated by heating for 20 minutes at 200°C. The product was purified by preparative layer chromatography using 5% acetic acid/petroleum ether b.p. 60°-80°C. and eluting with ethyl acetate; recrystallisation from petroleum ether b.p. 80°-100°C. gave 2-(2',4'-difluoro-4-biphenylyl)propionic acid, m.p. 125°-127°C.

reactant | Ethyl 2-(2', 4'-difluoro-4-biphenylyl)-2-methylmalonate | 5.42 g | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(C(=O)OCC)(C(=O)[O-])C
reactant | sodium hydroxide | 2.5N, 27 ml | [OH-].[Na+]
solvent | ethanol | 13.5 ml | C(C)O | C2H6O
product | 2-(2',4'-difluoro-4-biphenylyl)propionic acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(C(=O)O)C | C15H12F2O2
